US06350907B1
By the method of Preparation 3 a), tert-butyl (3R)-3-({[(1S)-2,2-dimethyl-1-(benzyloxycarbonyl)propyl]amino}carbonyl)hex-5-enoate (2.085 g, 5.0 mmol) was reacted with 4-iodo-1-(3-methoxyphenyl)-2-methylbenzene (Preparation 20) (889 mg, 2.13 mmol) under palladium catalysis, using N-ethylmorpholine as base at reflux in acetonitrile for 14.5 h. Work-up as before followed by purification by flash chromatography (hexane:ethyl acetate=10:1) gave mainly tert-butyl (3R,5E)-3-({[(1S)-2,2-dimethyl-1-(benzyloxycarbonyl)propyl]amino}carbonyl)-6-(3′-methoxy-2-methylbiphen-4-yl)hex-5-enoate as a pale yellow gum (1.043 gm, 80%). 1H nmr suggested that two alkene isomers, the (5Z) and (4E) were also present. The mixture of alkenes was taken onto the next step (see b, below).

reactant | tert-butyl (3R)-3-({[(1S)-2,2-dimethyl-1-(benzyloxycarbonyl)propyl]amino}carbonyl)hex-5-enoate | 5.0 mmol, 2.085 g | CC([C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)[C@@H](CC(=O)OC(C)(C)C)CC=C)(C)C | C24H35NO5
reactant | 4-iodo-1-(3-methoxyphenyl)-2-methylbenzene | 2.13 mmol, 889 mg | IC1=CC(=C(C=C1)C1=CC(=CC=C1)OC)C | C14H13IO
reactant | N-ethylmorpholine | C(C)N1CCOCC1 | C6H13NO
solvent | acetonitrile | C(C)#N | C2H3N
product | tert-butyl (3R,5E)-3-({[(1S)-2,2-dimethyl-1-(benzyloxycarbonyl)propyl]amino}carbonyl)-6-(3′-methoxy-2-methylbiphen-4-yl)hex-5-enoate | 1.043 gm, 80% | CC([C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)[C@@H](CC(=O)OC(C)(C)C)C\C=C\C1=CC=C(C(=C1)C)C1=CC(=CC=C1)OC)(C)C | C38H47NO6
